US07320784B1
Preparation of Dimethylglycylserinylcysteinylglycine
A solution of dimethylglycylserinylcysteinyl(Acetomidomethyl)glycine (RP414) (50 mg) and mercuric acetate (75 mg) in 30% acetic acid (2 mL) was stirred at room temperature for 3 h. Distilled water (2 mL) was added and H2S gas was slowly bubbled through the solution for 3 min causing a black precipitate (mercury sulfide). The solution was filtered through a 0.2 micron filter diluted with a further 2 mL of distilled water and lyophilised.

reactant | dimethylglycylserinylcysteinyl(Acetomidomethyl)glycine | 50 mg | CN(CC(=O)N[C@@H](CO)C(=O)N[C@@H](CS)C(=O)N(CC(=O)O)CNC(C)=O)C | C15H27N5O7S
reactant | water | 2 mL | O | H2O
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | Dimethylglycylserinylcysteinylglycine | CN(CC(=O)N[C@@H](CO)C(=O)N[C@@H](CS)C(=O)NCC(=O)O)C | C12H22N4O6S
